US05491145
Production of 3-acetoxy-N-methyl-1-propanesulfonamide
15 g of 3-acetoxy-1-propanesulfonylchloride was dissolved in 150 ml dichloromethane. To the mixture was added dropwise 11.6 g of methylamine (40% methanol solution) with stirring under ice coioling. The reaction mixture was stirred for 1.5 hours under ice cooling.

reactant | 3-acetoxy-1-propanesulfonylchloride | 15 g | C(C)(=O)OCCCS(=O)(=O)Cl | C5H9ClO4S
reactant | methylamine | 11.6 g | CN | CH5N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-acetoxy-N-methyl-1-propanesulfonamide | C(C)(=O)OCCCS(=O)(=O)NC | C6H13NO4S
